US04596816
5-(2-Hydroxyethyl)-4-phenyloxazole (10.0 g) was dissolved in chloroform (100 ml) and N,N-dimethylformamide (4.4 ml) was added. Under ice-cooling and stirring, 12.6 ml of thionyl chloride was added dropwise and the mixture was refluxed for an hour. The solvent was distilled off, followed by addition of saturated aqueous sodium hydrogen carbonate and extraction with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off to give an oil (11.0 g) of 5-(2-chloroethyl)-4-phenyloxazole. This product was dissolved in methyl ethyl ketone (150 ml), followed by addition of sodium iodide (13.0 g). The mixture was refluxed under stirring for 24 hours. The resulting precipitate was filtered off and the filtrate was concentrated, followed by addition of water and extraction with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off to give an oil of 5-(2-iodoethyl)-4-phenyloxazole, yield 14.4 g (83.2%).

reactant | 5-(2-Hydroxyethyl)-4-phenyloxazole | 10.0 g | OCCC1=C(N=CO1)C1=CC=CC=C1 | C11H11NO2
reactant | N,N-dimethylformamide | 4.4 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 12.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-chloroethyl)-4-phenyloxazole | 11.0 g | ClCCC1=C(N=CO1)C1=CC=CC=C1 | C11H10ClNO
